US08377970B2
N-[6-(3,5-dicyclopropyl-1H-pyrazol-1-yl)pyridin-3-yl]isonicotinamide dihydrochloride
Following the general procedure-1, N-[6-(3,5-dicyclopropyl-1H-pyrazol-1-yl)pyridin-3-yl]isonicotinamide (220 mg) from intermediate 30 (200 mg, 0.83 mmol) and isonicotinic acid (163 mg, 1.3 mmol) as a pale-yellow solid and dissolved in THF. Saturated HCl in diethyl ether was added to this solution at 0° C. and stirred for 15 min Solid that separated out was filtered and dried to give the title compound (190 mg) as a pale-yellow solid. M.P.: 200.3-202.4° C. 1H-NMR (δ ppm, DMSO-d6, 400 MHz): 11.26 (s, 1H), 8.99 (t, J 5.4, 2H), 8.88 (s, 1H), 8.35 (dd, J 2.6, 6.3, 1H), 8.30-8.25 (m, 2H), 7.78 (d, J 8.9, 1H), 5.83 (s, 1H), 2.72-2.62 (m, 1H), 1.90-1.81 (m, 1H), 0.94-0.82 (m, 4H), 0.70-0.59 (m, 4H). MS (m/z): 346.13 [M+H-2HCl]+.

reactant | N-[6-(3,5-dicyclopropyl-1H-pyrazol-1-yl)pyridin-3-yl]isonicotinamide | 220 mg | C1(CC1)C1=NN(C(=C1)C1CC1)C1=CC=C(C=N1)NC(C1=CC=NC=C1)=O | C20H19N5O
reactant | isonicotinic acid | 1.3 mmol, 163 mg | C(C1=CC=NC=C1)(=O)O | C6H5NO2
reactant | HCl | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-[6-(3,5-dicyclopropyl-1H-pyrazol-1-yl)pyridin-3-yl]isonicotinamide dihydrochloride | 190 mg | Cl.Cl.C1(CC1)C1=NN(C(=C1)C1CC1)C1=CC=C(C=N1)NC(C1=CC=NC=C1)=O | InChI=1S/C20H19N5O.2ClH/c26-20(15-7-9-21-10-8-15)23-16-5-6-19(22-12-16)25-18(14-3-4-14)11-17(24-25)13-1-2-13;;/h5-14H,1-4H2,(H,23,26);2*1H
